US08349885B2
Preparation 13: Synthesis of 5-methyl-7-nitro-2-pyrazin-2-yl-1H-indole
(4-Methyl-2-nitrophenyl)hydrazine hydrochloride (2 g, 9.8 mmol) and 2-acetylpyrazine (1.2 ml, 9.8 mmol) were reacted according to the same procedures as Preparations 4 to 5 to give the title compound (0.3 g, Yield 19%).

reactant | (4-Methyl-2-nitrophenyl)hydrazine hydrochloride | 9.8 mmol, 2 g | Cl.CC1=CC(=C(C=C1)NN)[N+](=O)[O-]
reactant | 2-acetylpyrazine | 9.8 mmol, 1.2 ml | C(C)(=O)C1=NC=CN=C1 | C6H6N2O
product | 5-methyl-7-nitro-2-pyrazin-2-yl-1H-indole | 0.3 g, Yield 19% | CC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C1=NC=CN=C1 | C13H10N4O2
